US05744611
(4S,5S)-4-benzyl-5-hydroxymethyl-oxazolidin-2-one
1.1 g (5 mmol) of (4S,5S)-4-benzyl-oxazolidin-2-one-5-carboxylic acid were dissolved in 15 ml of ethanol. 0.03 ml of sulphuric acid were added and the mixture refluxed for 4 hours. After cooling, 0.04 g of NaOH were addedand the mixture concentrated under a vacuum to 2 g. 4 ml of ethanol were then added and 0.25 g of NaBH4 was added in small portions. Once addition was complete and stirring had been continued for 0.5 hour, the educt was already completely converted. 4 ml of water were added, the mixture neutralised to pH 7 with 1.2 ml of 10% HCl and, after cooling, cooled to 0° C. The solid was separated using a vacuum filter and, due to the small batch size, washed with a disproportionately large quantity of water. The yield after isolation was 0.66 g=63.7%, wherein approximately 0.2 g=20% of theoretical still remained in the mother liquorand washing water. Diastereomer purity was S,S:R,S=98.75:1.

reactant | (4S,5S)-4-benzyl-oxazolidin-2-one-5-carboxylic acid | 5 mmol, 1.1 g | C(C1=CC=CC=C1)[C@@H]1NC(O[C@@H]1C(=O)O)=O | C11H11NO4
reactant | sulphuric acid | 0.03 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | 0.04 g | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (4S,5S)-4-benzyl-5-hydroxymethyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1NC(O[C@@H]1CO)=O | C11H13NO3
